US07514571B2
Using 2-tetrahydropyranyl 4-aminobicyclo[2,2,2]octane-1-carboxylate (90.0 mg) and (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile (70.0 mg), the same procedure was followed as in Example 1 to obtain (2S)-1-[[N-[4-(2-tetrahydropyranyl)oxycarbonylbicyclo[2,2,2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (85.2 mg).

reactant | 2-tetrahydropyranyl 4-aminobicyclo[2,2,2]octane-1-carboxylate | 90.0 mg | NC12CCC(CC1)(CC2)C(=O)OC2OCCCC2 | C14H23NO3
reactant | (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile | 70.0 mg | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
product | (2S)-1-[[N-[4-(2-tetrahydropyranyl)oxycarbonylbicyclo[2,2,2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 85.2 mg | O1C(CCCC1)OC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](CCC2)C#N | C21H31N3O4
